US09422240B2
To a mixture of (methoxymethyl)triphenylphosphonium chloride (6.14 g) with tert-butyl methyl ether (30.0 mL), potassium tert-butoxide (2.32 g) was added, with the temperature in the system being held at −10° C. The mixture was stirred at −10° C. for 10 minutes and thereafter stirred at room temperature for an hour. A solution of 4-phenylcyclohexanone (2.4 0 g) in tetrahydrofuran (10.0 mL) was added, with the temperature in the system being held at −10° C. The mixture was stirred at −10° C. for 10 minutes and thereafter stirred at room temperature for two hours. After adding water, the mixture was extracted with ethyl acetate. The combined organic layers were passed through a phase separator and thereafter concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0-60:40) to give [4-(methoxymethylidene)cyclohexyl]benzene as a colorless oil (3.59 g).

reactant | (methoxymethyl)triphenylphosphonium chloride | 6.14 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tert-butyl methyl ether | 30.0 mL | COC(C)(C)C | C5H12O
reactant | potassium tert-butoxide | 2.32 g | CC(C)([O-])C.[K+]
reactant | water | O | H2O
reactant | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
catalyst | 4-phenylcyclohexanone | 0 g | C1(=CC=CC=C1)C1CCC(CC1)=O | C12H14O
product | [4-(methoxymethylidene)cyclohexyl]benzene | 3.59 g | COC=C1CCC(CC1)C1=CC=CC=C1 | C14H18O
